US06812236B2
1-Hexanoyl-3,4-dimethyl-4-(3-methoxycarbonylphenyl)-piperidine
To a solution of 1-hexanoyl-3,4-dimethyl-4-(trifluoromethanesulfonyloxyphenyl)piperidine (Preparation 6, 267 mg, 0.48 mmol) in anhydrous N,N-dimethylformamide (2 mL) was added triethylamine (0.18 mL) and methanol (0.4 mL). The mixture was de-oxygenated by evacuating and flushing with nitrogen five times. Palladium(II) acetate (4.4 mg) and 1,1′-bis(diphenylphosphino)ferrocene (8 mg) were added and the solution was purged with carbon monoxide. The reaction mixture was heated to 60° C. under an atmosphere of carbon monoxide for 7 hours then it was cooled to room temperature and diluted with saturated aqueous sodium chloride solution (10 mL). The phases were separated and the aqueous layer was extracted with dichloromethane (4×15 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo. The residue was purified by column chromatography on silica gel (50 g) eluted with hexane:ethyl acetate:0.880 ammonia (66:33:1). The title compound was obtained as a pale yellow oil (110 mg).

reactant | 1-hexanoyl-3,4-dimethyl-4-(trifluoromethanesulfonyloxyphenyl)piperidine | 0.48 mmol, 267 mg | C(CCCCC)(=O)N1CC(C(CC1)(C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)C)C | C20H28F3NO4S
reactant | triethylamine | 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.4 mL | CO | CH4O
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-Hexanoyl-3,4-dimethyl-4-(3-methoxycarbonylphenyl)-piperidine | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)C(=O)OC)C)C | C21H31NO3
